US07521425B2
Step 5: 3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid 2,5-dioxo-pyrrolidin-1-yl ester
3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester (400 mg, 0.692 mmol) was dissolved in TFA/CH2Cl2 (1:1, 3 mL) and the mixture stirred overnight. The solvent was removed to give an oil as the acid intermediate. This oil was dissolved in CH2Cl2 (4 mL) containing DIEA (569 μL, 3.09 mmol), N-hydroxysuccinimide (119 mg, 1.03 mmol) and EDC (197 mg, 1.0 mmol) and the mixture stirred over the night. The solvent was removed and the residual oil was purified using column chromatography EtOAc/MeOH (95:5) to give an oil as the title compound, (M+1)=620.

reactant | 3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid tert-butyl ester | 0.692 mmol, 400 mg | C(C)(C)(C)OC(CCOCCOCCOCCNC(CCCC(NC1=CC=C(C=C1)CCC(CC(C)=O)=O)=O)=O)=O | C30H46N2O9
reactant | DIEA | 3.09 mmol, 569 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-hydroxysuccinimide | 1.03 mmol, 119 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | EDC | 1.0 mmol, 197 mg
solvent | TFA CH2Cl2 | 3 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-{2-[2-(2-{4-[4-(3,5-Dioxo-hexyl)-phenylcarbamoyl]-butyrylamino}-ethoxy)-ethoxy]-ethoxy}-propionic acid 2,5-dioxo-pyrrolidin-1-yl ester | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCNC(CCCC(NC1=CC=C(C=C1)CCC(CC(C)=O)=O)=O)=O)=O | C30H41N3O11
